US04195088
31.6 g of 2-chloro-3-nitro-pyridine and 56.5 g of 2-amino-pyridine were well mixed in a mortar and the mixture was slowly heated on an oil bath to the melting point. At 150° C. a lively reaction started and the temperature spontaneously rose to 160° C. The heating was suspended until the isothermic reaction ceased and heating at 150° C. was continued for 2 hours. The mixture was cooled and the fused mass was taken up in 500 ml of chloroform. The mixture was concentrated and was chromatographed over silica gel. Elution with about 3 liters of a 1-0.75-1.2 chloroform-benzene-ether mixture yielded unreacted 2-chloro-3-nitro-pyridine and evaporation of the eluent yielded 20 g of raw product which was crystallized from 95% ethanol to obtain 15.5 g (36% yield) of 2-(2-pyridylamino)-3-nitro-pyridine in the form of orange-yellow needles melting at 121°-123° C. The product was soluble in 2 N hydrochloric acid.

reactant | 2-chloro-3-nitro-pyridine | 31.6 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-amino-pyridine | 56.5 g | NC1=NC=CC=C1 | C5H6N2
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-pyridylamino)-3-nitro-pyridine | 15.5 g, 36% yield | N1=C(C=CC=C1)NC1=NC=CC=C1[N+](=O)[O-] | C10H8N4O2
